US07557112B2
A mixture of methyl 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylate, MeOH, THF and 1M sodium hydroxide (NaOH) solution (aq) was stirred for two hours at 85° C. to give 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylic acid.

reactant | methyl 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylate | ClC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=C1F)F | C13H8ClF2NO3S
reactant | MeOH | CO | CH4O
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4-chloro-2,5-difluorobenzoyl)amino]thiophene-2-carboxylic acid | ClC1=CC(=C(C(=O)NC2=C(SC=C2)C(=O)O)C=C1F)F | C12H6ClF2NO3S
